US05273999
Preparation of 1,2-Dihydro-9-hydroxy-3H-naphtho[2,1-b]pyran-3-one
A mixture of 2.57 g (11.3 mmol) of 1,2-dihydro-9-methoxy-3H-naphtho[2,1-b]pyran-3-one from the preceding example and 7.86 g (68.0 mol) of pyridine hydrochloride was heated at 200°-230° C. for 2.5 hr. After being cooled to room temperature, the reaction mixture was treated with 100 mL of water and worked-up with ethyl acetate in the usual manner. The crude product (2.52 g) was dissolved in 150 mL of toluene, treated with 0.31 g (1.63 mmol) of p-toluenesulfonic acid monohydrate, and the resulting solution was stirred at reflux for 3.5 hr, with removal of water using a Dean-Stark trap. The solution was diluted with 300 mL of ethyl acetate, washed three times with saturated sodium bicarbonate solution, and work-up was completed in the usual manner. The crude product was purified by flash chromatography on 300 g of silica gel, eluting with hexane-ethyl acetate (3:1) to give 2.06 g (85.3%) of the title compound as a light-brown solid, mp 194°-202° C. (recrystallized from ethyl acetate).

reactant | 1,2-dihydro-9-methoxy-3H-naphtho[2,1-b]pyran-3-one | 11.3 mmol, 2.57 g | COC1=CC=C2C=CC=3OC(CCC3C2=C1)=O | C14H12O3
reactant | pyridine hydrochloride | 68.0 mol, 7.86 g | Cl.N1=CC=CC=C1
reactant | water | 100 mL | O | H2O
reactant | p-toluenesulfonic acid monohydrate | 1.63 mmol, 0.31 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1,2-Dihydro-9-hydroxy-3H-naphtho[2,1-b]pyran-3-one | OC1=CC=C2C=CC=3OC(CCC3C2=C1)=O | C13H10O3
